US08633313B2
To a stirred solution of ethyl 4-chloro-2-(3-fluorophenyl)-1,5-naphthyridine-3-carboxylate (614 mg, 1.856 mmol) in toluene (10 mL) at 0° C. was added DIBAL-H (4.1 mL, 4.1 mmol) dropwise over 2 min. After this time the reaction was allowed to warm to rt for 1 h. After this time more DIBAL-H (4.1 mL, 4.1 mmol) was added and the reaction was stirred at rt overnight. After this time lithium aluminium hydride (0.92 mL, 3.68 mmol, 4.0M solution in THF) was added and the reaction was stirred at rt for 10 min. After this time the reaction was carefully quenched with water (8 mL), NaOH (5 mL, 1.0M aq. solution) and water (5 mL). To the stirred mixture was added EtOAc (50 mL) and Rochelle's salt (50 mL, satd aq. solution) and the mixture was stirred at rt for 2 h. After this time the separated organic layer was washed with water, dried over MgSO4, filtered and concentrated in vacuo. The resulting solid was purified by column chromatography on silica gel using a gradient from 1:0 to 1:2 of hexane:EtOAc to give (2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methanol: LC-MS (ESI) m/z 255.1 [M+H]+.

reactant | ethyl 4-chloro-2-(3-fluorophenyl)-1,5-naphthyridine-3-carboxylate | 1.856 mmol, 614 mg | ClC1=C(C(=NC2=CC=CN=C12)C1=CC(=CC=C1)F)C(=O)OCC | C17H12ClFN2O2
reactant | DIBAL-H | 4.1 mmol, 4.1 mL | CC(C)C[AlH]CC(C)C
reactant | DIBAL-H | 4.1 mmol, 4.1 mL | CC(C)C[AlH]CC(C)C
reactant | lithium aluminium hydride | 3.68 mmol, 4.0M, 0.92 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | (2-(3-fluorophenyl)-1,5-naphthyridin-3-yl)methanol | FC=1C=C(C=CC1)C1=NC2=CC=CN=C2C=C1CO | C15H11FN2O
